US07612114B2
1-Ethyl-7-(6-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl)-1H-indol-4-ol
A mixture of 1-ethyl-4-methoxy-7-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)-1H-indole-2,3-dione (160 mg), borane-tetrahydrofuran complex (1.0 M solution in tetrahydrofuran) (1.8 ml) and tetrahydrofuran (10 ml) was refluxed for 1 hour. After dilution with ice water, ammonia solution was added thereto, the solution was extracted with ethyl acetate, then washed with brine, dried over magnesium sulfate, and then the solvent was evaporated in vacuo. The residue was purified by silica gel column chromatography (hexane-ethyl acetate system), the resulting 1-ethyl-4-methoxy-7-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)-1H-indole (58 mg) was used according to an analogous synthetic method to Example 364 described below to provide the title compound (7 mg).

reactant | 1-ethyl-4-methoxy-7-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)-1H-indole-2,3-dione | 160 mg | C(C)N1C(C(C2=C(C=CC(=C12)C1CC2=CC=C(C=C2CC1)OC)OC)=O)=O | C22H23NO4
reactant | borane tetrahydrofuran | 1.0 M, 1.8 ml | B.O1CCCC1
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-Ethyl-7-(6-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl)-1H-indol-4-ol | 7 mg | C(C)N1C=CC=2C(=CC=C(C12)C1CC2=CC=C(C=C2CC1)O)O | C20H21NO2
